US06448397B1
To a mixture of 2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile (0.66 g, 1.86 mmol) in dry THF (120 mL) is added borane-methylsulfide complex (0.53 mL, 5.6 mmol). The mixture is refluxed at 85° C. for 18 h. The mixture is removed from heat and methanol is slowly added until gas evolution ceased. The solvents are removed under vacuum and methanol (5 mL) is added and again removed. The residue is dissolved in CH2Cl2/CH3OH (1:2 15 mL). Conc. HCl (2 mL) is added and the mixture heated at 65° C. for 1 h. The mixture is removed from heat and neutralized with aqueous potassium carbonate then partitioned between water and CH2Cl2. The organic layer is washed with water, dried over magnesium sulfate, and concentrated. Column chromatography (70 g silica gel) using CH3OH/CH2C2 (4:96) as eluent gave 0.444 g (67%) of 2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-ethanamine.

reactant | 2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile | 1.86 mmol, 0.66 g | CC=1C=C2C=3C(=CC=CC3N3C2=C(C1)OCC3C3=CC=CC=C3)OCC#N | C23H18N2O2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-[(5-methyl-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-ethanamine | 0.444 g, 67% | CC=1C=C2C=3C(=CC=CC3N3C2=C(C1)OCC3C3=CC=CC=C3)OCCN | C23H22N2O2
